US07138425B2
a) 2-(5-Nitro-2-(4-morpholinyl)phenyl)-5-phenylbenzoxazole
Prepared by the method of Example 54a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.60 mmol), and morpholine (3 ml) the subtitle compound was obtained (274 mg, 100%). MS 402 m/z (M+H)+.

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.60 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
product | 2-(5-Nitro-2-(4-morpholinyl)phenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2CCOCC2 | C23H19N3O4
